US05130309
1-(1,1-dimethylethyl)-3-[(4-methylphenoxy)methyl]azetidine
Following the procedures of Example 8, the title compound is prepared from 1-t-butyl-3-azetidinemethanol and p-cresol.

reactant | 1-t-butyl-3-azetidinemethanol | C(C)(C)(C)N1CC(C1)CO | C8H17NO
reactant | p-cresol | C1=CC(=CC=C1O)C | C7H8O
product | 1-(1,1-dimethylethyl)-3-[(4-methylphenoxy)methyl]azetidine | CC(C)(C)N1CC(C1)COC1=CC=C(C=C1)C | C15H23NO
